US05463063
To a stirred solution of L-glutamine (43.8 g, 300 mmoL) and sodium carbonate (33.4 g, 315 mmoL) in 750 mL of water is rapidly added N-carbethoxyphthalimide [65.8 (97% pure, 67.8 g), 300 mmoL] as a solid. After 1 hour, the reaction mixture is filtered to remove unreacted N-carbethoxyphthalimide. The pH of the stirred filtrate is adjusted to 3-4 with 4N hydrochloric acid. The mixture is then seeded with N-phthaloyl-L-glutamine and the pH adjusted to 1-2 with 4N hydrochloric acid. The resulting slurry is stirred for 1 hour. The slurry is filtered and the solid washed with copious amounts of water. The solid is air-dried and then dried in vacuo (60° C., <1 mm) overnight to afford 49.07 g (59%) of N-phthaloyl-L-glutamine, which can be alternatively named as 2-phthalimidoglutaramic acid, as a white powder.

reactant | L-glutamine | 43.8 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | sodium carbonate | 33.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 67.8 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 750 mL | O | H2O
product | N-phthaloyl-L-glutamine | 49.07 g, 59% | C1=CC=C2C(=C1)C(=O)N(C2=O)[C@@H](CCC(=O)N)C(=O)O | C13H12N2O5
